US07741327B2
A mixture of 1-methyl-1H-indazol-4-ol (0.130 g, 0.88 mmol), ethyl-2-butynoate (0.59 g, 5.26 mmol), a catalytic amount of 4-dimethylaminopyridine, and potassium carbonate (0.120 g, 0.88 mmol) in tetrahydrofuran (10 mL) in a sealed tube was heated at 80° C. for 14 h. The reaction mixture was then filtered. The solids were washed with a small amount of tetrahydrofuran and the combined filtrate was concentrated in vacuo. The residue was purified by flash column chromatography (silica gel 0% to 40% ethyl acetate/hexanes) which afforded (E)-3-(1-methyl-1H-indazol-4-yloxy)-but-2-enoic acid ethyl ester (0.170 g, 74%) as a viscous tan oil.

reactant | 1-methyl-1H-indazol-4-ol | 0.88 mmol, 0.130 g | CN1N=CC=2C(=CC=CC12)O | C8H8N2O
reactant | ethyl-2-butynoate | 5.26 mmol, 0.59 g | C(C)OC(C#CC)=O | C6H8O2
reactant | potassium carbonate | 0.88 mmol, 0.120 g | C([O-])([O-])=O.[K+].[K+]
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (E)-3-(1-methyl-1H-indazol-4-yloxy)-but-2-enoic acid ethyl ester | 0.170 g, 74% | C(C)OC(\C=C(/C)\OC1=C2C=NN(C2=CC=C1)C)=O | C14H16N2O3
